US07288544B2
3) Synthesis of 4-[4-(3-chlorophenyl)-5-(3,3-diphenylpropoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester:
258 mg (0.510 mmol) of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester, 143 mg (0.770 mmol) of 1-t-butoxycarbonylpiperazine, 117 mg (0.610 mmol) of WSC hydrochloride and 18.0 mg (0.140 mol) of 4-dimethylaminopyridine were stirred at room temperature overnight in 15 ml of dichloromethane. After adding water and 1 N hydrochloric acid, the reaction mixture was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/2) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester | 0.510 mmol, 258 mg | C1(=CC=CC=C1)C(CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)O)C)C)C1=CC=CC=C1 | C30H28ClNO4
reactant | 1-t-butoxycarbonylpiperazine | 0.770 mmol, 143 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | WSC hydrochloride | 0.610 mmol, 117 mg | CCN=C=NCCCN(C)C.Cl
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.140 mol, 18.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[4-(3-chlorophenyl)-5-(3,3-diphenylpropoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C39H44ClN3O5
